US04596819
A solution of 24.3 g of (S)-2-(2-methylpropyl)aziridine [Bull. Chem. Soc. (Japan) 35, 1004 (1962).] in 500 ml of ether is treated with 34.2 ml of triethylamine and cooled in ice. While stirring rapidly 40.4 ml (a 10% excess) of benzyl chloroformate is added dropwise over a 30 minute period. After stirring for one hour at 0°, the triethylamine, hydrochloride is filtered off and the ether removed under reduced pressure. The residue is distilled under reduced pressure. After a forerun of benzyl chloride, the product distills at 105°-122°/0.6 mm. There is obtained 51.66 g (90.5% yield) of (S)-2-(2-methylpropyl)-1-aziridinecarboxylic acid, phenylmethyl ester.

reactant | (S)-2-(2-methylpropyl)aziridine | 24.3 g | CC(C[C@@H]1NC1)C | C6H13N
reactant | triethylamine | 34.2 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ether | 500 ml | CCOCC | C4H10O
product | (S)-2-(2-methylpropyl)-1-aziridinecarboxylic acid, phenylmethyl ester | 51.66 g, 90.5% yield | CC(CC1[N@](C1)C(=O)OCC1=CC=CC=C1)C | C14H19NO2
